US04385925
A solution of 105.5 g (0.5 mole) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one in 100 ml of dimethylformamide is added dropwise, at 20°-25° C., to a suspension, stirred under pure nitrogen, of 13.2 g (0.55 mole) of sodium hydride in 100 ml of dry dimethylformamide. The reaction mixture is then stirred for three hours at 25° C., after which a solution of 81 g (0.5 mole) of 4-chlorobenzyl chloride in 50 ml of dimethylformamide is added dropwise and stirring is then continued for 14 hours. 50 ml of ice water are then cautiously added dropwise and the mixture is concentrated under reduced pressure. The residue is partitioned between 400 ml of methylene chloride and 200 ml of water and the organic phase is washed with three times 200 ml of water, dried over Na2SO4 and evaporated down. 112 g (66.8%) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(4-chlorophenyl)-propan-1-one are obtained as a pale yellow resin.

reactant | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one | 0.5 mole, 105.5 g | CC1(COCOC1)C(CN1N=CN=C1)=O | C9H13N3O3
reactant | sodium hydride | 0.55 mole, 13.2 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 0.5 mole, 81 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(4-chlorophenyl)-propan-1-one | 112 g, 66.8% | CC1(COCOC1)C(C(CC1=CC=C(C=C1)Cl)N1N=CN=C1)=O | C16H18ClN3O3
